### PR TITLE
[Merged by Bors] - feat(UniqueProds + NoZeroDivisors): AddMonoidAlgebra instances

### PR DESCRIPTION
**Pull request by adomani**
Add `UniqueProds/Sums` and `NoZeroDivisors` instances.

This has recently been prompted by the port of the [Lindemann-Weierstrass Theorem](https://leanprover.zulipchat.com/#narrow/stream/116395-maths), but the results are self-contained.  Instances such as the ones in this PR are the reasons why `UniqueProds/Sums` were introduced.

Affected files:
```
Algebra/
	Group/UniqueProds.lean
	MonoidAlgebra/NoZeroDivisors.lean
```

---

- [x] depends on: #6751, `to_additive` support for naming -- no real dependency, other than automated naming
- [x] depends on: #6752, adding `IsLeftCancel` instance on MulOpposites
- [x] depends on: #6753, just some golfing -- no real dependency, other than a shorter diff
- [x] depends on: #6755, adding `subsingleton` and `MulOpposites` on `UniqueProds`

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/MonoidAlgebra/NoZeroDivisors.lean [hunk 1]
```diff
@@ -46,6 +50,15 @@ namespace AddMonoidAlgebra
 
 open Finsupp
 
+instance {L σ : Type*} [LinearOrder σ] [LinearOrder L] [AddGroup L]
+    [ContravariantClass L L (· + ·) (· ≤ ·)]
+    [CovariantClass L L (Function.swap (· + ·)) (· ≤ ·)] :
+    UniqueSums (σ →₀ L) := show UniqueSums ((Lex (σ →₀ L))) from
```
Comment (alreadydone) [inline Mathlib/Algebra/MonoidAlgebra/NoZeroDivisors.lean:56]: I think we can easily show `UniqueProds (G × H)` from `UniqueProds G` and `UniqueProds H`, and by induction on `Pi` (finitely many factors), `Finsupp` and `DFinsupp`. However, unlike linear orderability, I think `UniqueProds` probably doesn't transfer to direct product (`Pi`) with infinitely many factors, but I'm yet to find a counterexample.

Comment (adomani) [reply Mathlib/Algebra/MonoidAlgebra/NoZeroDivisors.lean:56]: I do not know the answer to the question about infinite products.  However, these notions are very close and subtly different from torsion-freeness.

Kaplanski's conjecture asserts that torsion-freeness for a group `G` should be equivalent to no non-zero zero-divisors in `k[G]`.

Maybe there is some room for an easy `Pi`-counterexample using Monoids/Semigroups?  However, a counterexample with a group may be hard...

**Comment by alreadydone** [comment]
Wow! I didn't know you've already proven [add_monoid_algebra.no_zero_divisors.of_left_ordered](https://leanprover-community.github.io/mathlib_docs/algebra/monoid_algebra/no_zero_divisors.html#add_monoid_algebra.no_zero_divisors.of_left_ordered), which could easily be used for the purpose of the Lindemann-Weierstrass proof! However, the correct thing to do is probably to derive `UniqueProds` from the assumptions (I'm on it).

**Comment by adomani** [comment]
Yes, I clumsily did this in branch#adomani/useUA, but got confused with what was already PRed and what wasn't, so currently it does not build.  The missing instance is the `UniqueSums → NoZeroDivisors`.

**Comment by adomani** [comment]
If you want to look at my approach, it is here:

https://github.com/leanprover-community/mathlib4/blob/adomani/useUA/Mathlib/Algebra/MonoidAlgebra/NoZeroDivisors.lean#L87

Feel free to add more stuff, if you want: I won't be working on this for several hours, since I'm ready to go to sleep!

**Comment by adomani** [comment]
Two final comments:
* the left/right orderabilities were my motivation for switching to Unique sums and refactor (but was interrupted by the port)
* most of the lemmas about support in NoZeroDivosors can probably be removed, once the UniqueSums have done their decoupling.

**Comment by alreadydone** [comment]
I've formalized a simple proof that I figured out after reading https://arxiv.org/pdf/2302.11853 (Section 1.1). The paper talks about groups, so I needed to figure out how to generalize to monoids, and I came to the same conclusion as you did one year ago: left-orderability + right cancellation is enough. The "diffuse" property may be hard to generalize to monoids. The implication "trivial units => no zero divisors => trivial idempotents" may fail in a semiring. The "two unique products" property is interesting since it seems to be exactly what we need to show the factors of a homogeneous polynomial are homogeneous, where the homogeneity comes from a grading by such a monoid (assuming no zero divisors in the base semiring); yet to figure out whether it follows from "one unique produt" for monoids that are not groups.

```
@[to_additive Covariant.to_uniqueSums]
instance (priority := 100) Covariant.to_uniqueProds {A} [Mul A] [IsRightCancelMul A]
    [LinearOrder A] [CovariantClass A A (· * ·) (· < ·)] :
    UniqueProds A where
  uniqueMul_of_nonempty {A B} hA hB := by
    obtain ⟨a0, b0, ha0, hb0, he⟩ := Finset.mem_mul.mp (Finset.max'_mem _ <| hA.mul hB)
    refine ⟨a0, ha0, b0, hb0, fun a b ha hb he' => ?_⟩
    obtain hl | rfl | hl := lt_trichotomy b b0
    · refine ((he'.trans he ▸ mul_lt_mul_left' hl a).not_le <| Finset.le_max' _ (a * b0) ?_).elim
      exact Finset.mem_mul.mpr ⟨a, b0, ha, hb0, rfl⟩
    · exact ⟨mul_right_cancel he', rfl⟩
    · refine ((he ▸ mul_lt_mul_left' hl a0).not_le <| Finset.le_max' _ (a0 * b) ?_).elim
      exact Finset.mem_mul.mpr ⟨a0, b, ha0, hb, rfl⟩
```

File: Mathlib/Algebra/Group/UniqueProds.lean [hunk 2]
```diff
@@ -184,36 +185,80 @@ attribute [to_additive UniqueSums] UniqueProds
...
+
 -- see Note [lower instance priority]
-/-- This instance asserts that if `A` has a multiplication, a linear order, and multiplication
-is 'very monotone', then `A` also has `UniqueProds`. -/
-@[to_additive Covariants.to_uniqueSums
-      "This instance asserts that if `A` has an addition, a linear order, and addition
-is 'very monotone', then `A` also has `UniqueSums`."]
-instance (priority := 100) Covariants.to_uniqueProds {A} [Mul A] [LinearOrder A]
-    [CovariantClass A A (· * ·) (· ≤ ·)] [CovariantClass A A (Function.swap (· * ·)) (· < ·)]
-    [ContravariantClass A A (· * ·) (· ≤ ·)] : UniqueProds A where
```
Comment (alreadydone) [inline Mathlib/Algebra/Group/UniqueProds.lean:214]: This is now `inferInstance` so I removed it.

File: Mathlib/Algebra/MonoidAlgebra/NoZeroDivisors.lean [hunk 3]
```diff
@@ -46,119 +50,60 @@ namespace AddMonoidAlgebra
...
-    {f : AddMonoidAlgebra R A} (b x : A)
-    (hx : x ∈ (f * single b 1 : AddMonoidAlgebra R A).support) : ∃ a ∈ f.support, a + b = x := by
-  rwa [support_mul_single _ _ (fun y => by rw [mul_one] : ∀ y : R, y * 1 = 0 ↔ _),
-    Finset.mem_map] at hx
-#align add_monoid_algebra.right.exists_add_of_mem_support_single_mul AddMonoidAlgebra.Right.exists_add_of_mem_support_single_mul
-
-/-- If `R` is a semiring with no non-trivial zero-divisors and `A` is a left-ordered add right
-cancel semigroup, then `AddMonoidAlgebra R A` also contains no non-zero zero-divisors. -/
-theorem NoZeroDivisors.of_left_ordered [NoZeroDivisors R] [AddRightCancelSemigroup A]
-    [LinearOrder A] [CovariantClass A A (· + ·) (· < ·)] : NoZeroDivisors (AddMonoidAlgebra R A) :=
```
Comment (alreadydone) [inline Mathlib/Algebra/MonoidAlgebra/NoZeroDivisors.lean:87]: Similarly these two are now `inferInstance`.

**Review by alreadydone — COMMENTED** [review]
@adomani I pushed some golfs and the left/right orderability -> uniqueProds instances; I hope you don't mind!

**Review by alreadydone — COMMENTED** [review]
Contrary to my former expectation, I've now worked out a proof that an arbitrary direct product of monoids with unique products itself has unique products. The proof is by reducing to a smaller Finset and apply induction: if one of the Finsets A and B in the Pi monoid is not a singleton (wlog A), it's projection to some coordinate is not a singleton. Use the UniqueProds property on that coordinate to select a unique pair (a_i, b_i), and a unique pair for the Finsets {c ∈ A | c_i = a_i} (smaller than A) and {c ∈ B | c_i = b_i} will also be a unique pair for A and B.

Working on formalization now; it's annoying that `MulOpposite A` is no longer defeq to `A` so more duplication is destined ... The `UniqueProd (G × H)` instance is already done.

File: Mathlib/Algebra/MonoidAlgebra/NoZeroDivisors.lean [hunk 4]
```diff
@@ -46,119 +50,60 @@ namespace AddMonoidAlgebra
 
 open Finsupp
 
+instance {L σ : Type*} [LinearOrder σ] [LinearOrder L] [AddGroup L]
```
Comment (adomani) [inline Mathlib/Algebra/MonoidAlgebra/NoZeroDivisors.lean:53]: Is `LinearOrder σ` really needed as an assumption, or can you get away with adding an arbitrary linear order inside the proof, like in the final instance below.  (I.e. extend the Partial order given by `(• = •)` to a linear one inside the proof.)

File: Mathlib/Algebra/MonoidAlgebra/NoZeroDivisors.lean [hunk 5]
```diff
@@ -46,119 +50,60 @@ namespace AddMonoidAlgebra
...
+      exact (add_eq_add_iff_eq_and_eq (A.le_max' a aA) (B.le_max' b bB)).mp }
+
 variable {R A : Type*} [Semiring R]
 
 /-- The coefficient of a monomial in a product `f * g` that can be reached in at most one way
 as a product of monomials in the supports of `f` and `g` is a product. -/
-theorem mul_apply_add_eq_mul_of_forall_ne [Add A] {f g : AddMonoidAlgebra R A} {a0 b0 : A}
-    (h : ∀ {a b : A}, a ∈ f.support → b ∈ g.support → a ≠ a0 ∨ b ≠ b0 → a + b ≠ a0 + b0) :
+theorem mul_apply_add_eq_mul_of_uniqueAdd [Add A] {f g : AddMonoidAlgebra R A} {a0 b0 : A}
+    (h : UniqueAdd f.support g.support a0 b0) :
```
[the remark this answers is not in the document]
Comment (adomani) [reply Mathlib/Algebra/MonoidAlgebra/NoZeroDivisors.lean:67]: Very nice!  This is all vestigial from before `UniqueProds/Sums` were introduced to mathlib.

File: Mathlib/Algebra/Group/UniqueProds.lean [hunk 6]
```diff
@@ -184,36 +185,80 @@ attribute [to_additive UniqueSums] UniqueProds
...
+  refine ⟨fun {A B} A0 B0 => ?_⟩
+  classical
+  obtain ⟨a0, ha0, b0, hb0, h⟩ := uG.uniqueMul_of_nonempty (A0.image f) (B0.image f)
+  rcases mem_image.mp ha0 with ⟨a', ha', rfl⟩
+  rcases mem_image.mp hb0 with ⟨b', hb', rfl⟩
+  exact ⟨a', ha', b', hb', (UniqueMul.mulHom_image_iff f hf).mp h⟩
+
+/-- `UniqueProd` is preserved under multiplicative equivalences. -/
+@[to_additive "`UniqueSums` is preserved under additive equivalences."]
+theorem mulHom_image_iff (f : G ≃* H) :
```
Comment (adomani) [inline Mathlib/Algebra/Group/UniqueProds.lean:260]: Honestly, I do not really know if this iff is useful or not: I thought that I needed it for the step "identify a ℚ-vector space with the `Finsupp basis → ℚ`", but the injection version was enough.  This is a fairly common pattern: equivalences in formal maths are less ubiquitous than in informal maths.

File: Mathlib/Algebra/MonoidAlgebra/NoZeroDivisors.lean [hunk 7]
```diff
@@ -46,119 +50,60 @@ namespace AddMonoidAlgebra
...
+    refine support_nonempty_iff.mp ⟨da + db, ?_⟩
+    rw [mem_support_iff] at a0 b0 ⊢
+    exact mul_apply_add_eq_mul_of_uniqueAdd h ▸ mul_ne_zero a0 b0
+
+/-- The proof goes via the equivalence `R ≃ₗ[ℚ] (Basis.ofVectorSpaceIndex ℚ R) →₀ ℚ`,
+i.e. choosing a basis.
+Once we have a basis, we use the Lexicographic order on the coordinates and all the instances
+that `ℚ` already has.
+-/
+instance {R : Type*} [AddCommGroup R] [Module ℚ R] : UniqueSums R :=
```
Comment (adomani) [inline Mathlib/Algebra/MonoidAlgebra/NoZeroDivisors.lean:94]: By the way, `Module ℚ R` could be replaced by torsionfree.  I chose this assumption as it was a cheap way out and it still worked for Lindemann-Weierstrass.

In the longer term, proving that torsion-free abelian groups have `UniqueSums` could be nice.

**Review by adomani — COMMENTED** [review]
This all looks great!  Thank you for refactoring using `UniqueProds/Sums` more extensively.


I'll take a closer look when I'm at a computer and will likely add some documentation about the role that UniqueProds has in decoupling certain arguments about MonoidAlgebras by focusing on the grading type.

File: Mathlib/Algebra/MonoidAlgebra/NoZeroDivisors.lean (hunk 7 above)
Comment (alreadydone) [reply Mathlib/Algebra/MonoidAlgebra/NoZeroDivisors.lean:94]: We just need the fact that [torsion-free abelian groups embed into a rational vector space](https://math.stackexchange.com/questions/425431/embedding-torsion-free-abelian-groups-into-mathbb-qn). Torsion-free abelian cancellative monoids embeds into such groups, so it even extends to that case.

File: Mathlib/Algebra/Group/UniqueProds.lean (hunk 6 above)
Comment (alreadydone) [reply Mathlib/Algebra/Group/UniqueProds.lean:260]: Yeah but I wouldn't bother removing it ...

Comment (adomani) [reply Mathlib/Algebra/Group/UniqueProds.lean:260]: Agreed.  It could also be useful for rewrites.

File: Mathlib/Algebra/MonoidAlgebra/NoZeroDivisors.lean (hunk 4 above)
Comment (alreadydone) [reply Mathlib/Algebra/MonoidAlgebra/NoZeroDivisors.lean:53]: The way to put an arbitrary linear order on a type is `IsWellOrder.linearOrder WellOrderingRel`. However I'm gonna prove this from the `Pi` result assuming only `UniqueSums L`.

File: Mathlib/Algebra/MonoidAlgebra/NoZeroDivisors.lean (hunk 1 above)
Comment (alreadydone) [reply Mathlib/Algebra/MonoidAlgebra/NoZeroDivisors.lean:56]: Kaplansky's conjecture is falsified but it's still unknown whether unique product <=> no zero divisors IIUC, and that's a hint that it should work for infinite direct products, which is what I have proven.

File: Mathlib/Algebra/MonoidAlgebra/NoZeroDivisors.lean (hunk 4 above)
Comment (adomani) [reply Mathlib/Algebra/MonoidAlgebra/NoZeroDivisors.lean:53]: Ok, I'm happy to see orders slowly fading away!

Comment (adomani) [reply Mathlib/Algebra/MonoidAlgebra/NoZeroDivisors.lean]: Anyway, while waiting for the `Pi` proof, I remove the `LinearOrder σ` assumption in this instance.

File: Mathlib/Algebra/MonoidAlgebra/NoZeroDivisors.lean [hunk 8]
```diff
@@ -41,124 +60,89 @@ These conditions are sufficient, but not necessary.  As mentioned above, *Kaplan
...
-  rwa [support_single_mul _ _ (fun y => by rw [one_mul] : ∀ y : R, 1 * y = 0 ↔ _),
-    Finset.mem_map] at hx
-#align add_monoid_algebra.left.exists_add_of_mem_support_single_mul AddMonoidAlgebra.Left.exists_add_of_mem_support_single_mul
-
-theorem Right.exists_add_of_mem_support_single_mul [AddRightCancelSemigroup A]
-    {f : AddMonoidAlgebra R A} (b x : A)
-    (hx : x ∈ (f * single b 1 : AddMonoidAlgebra R A).support) : ∃ a ∈ f.support, a + b = x := by
-  rwa [support_mul_single _ _ (fun y => by rw [mul_one] : ∀ y : R, y * 1 = 0 ↔ _),
-    Finset.mem_map] at hx
-#align add_monoid_algebra.right.exists_add_of_mem_support_single_mul AddMonoidAlgebra.Right.exists_add_of_mem_support_single_mul
```
[the remark this answers is not in the document]
Comment (adomani) [reply Mathlib/Algebra/MonoidAlgebra/NoZeroDivisors.lean:82]: Yes, I saw the removal.  I am not sure that these lemmas would be useful, now that the whole `NoZeroDivisors` proof goes via `UniqueProds/Sums`.  I do not think that anyone will miss them: I had introduced them in mathlib3 before I defined `UniqueProds`.

File: Mathlib/Algebra/MonoidAlgebra/NoZeroDivisors.lean (hunk 7 above)
Comment (alreadydone) [reply Mathlib/Algebra/MonoidAlgebra/NoZeroDivisors.lean]: To show this with what we currently have in mathlib:
1. for a commutative cancellative monoid, we know it embeds into its AddLocalization at \top ([AddLocalization.mk_left_injective](https://leanprover-community.github.io/mathlib4_docs/Mathlib/GroupTheory/MonoidLocalization.html#AddLocalization.mk_left_injective)) but we don't have that the AddLocalization is a group. We also need to show [AddMonoid.IsTorsionFree](https://leanprover-community.github.io/mathlib4_docs/Mathlib/GroupTheory/Torsion.html#AddMonoid.IsTorsionFree) is preserved by AddLocalization.
2. Show that `AddMonoid.IsTorsionFree A` is equivalent to `NoSmulZeroDivisors ℕ A` (or `NoSmulZeroDivisors ℤ A` for AddGroup A).
3. Show that `[LocalizedModule.mkLinearMap](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Module/LocalizedModule.html#LocalizedModule.mkLinearMap) (NonZeroDivisors R) M` is injective when `NoSmulZeroDivisors R M` is satisfied: this should be easy from [LocalizedModule.mk_eq](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Module/LocalizedModule.html#LocalizedModule.mk_eq). `LocalizedModule ℤ⁰ M` is a module over `Localization ℤ⁰` (= `FractionRing ℤ`) by [LocalizedModule.isModule](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Module/LocalizedModule.html#LocalizedModule.isModule), so `LocalizedModule ℤ⁰ M` is a vector space over `FractionRing ℤ` and therefore isomorphic to some `ι →₀ FractionRing ℤ`, which is isomorphic (as AddGroup) to `ι →₀ ℚ`, and we can then apply the instance here.

**Comment by adomani** [comment]
If we add
```lean
open Finset MulOpposite in
@[to_additive]
theorem of_mulOpposite (h : @UniqueMul Gᵐᵒᵖ (MulOpposite.mul G)
      (B.map ⟨_, op_injective⟩) (A.map ⟨_, op_injective⟩) (op b0) (op a0)) :
    UniqueMul A B a0 b0 := by
  intros a b aA bB ab
  have := h (mem_map_of_mem _ bB) (mem_map_of_mem _ aA) (by erw [← op_mul, ab, op_mul])
  simpa [and_comm] using this

open Finset MulOpposite in
@[to_additive]
theorem of_mulOpposite (G : Type*) [Mul G] (h : @UniqueProds Gᵐᵒᵖ (MulOpposite.mul G)) : UniqueProds G :=
⟨fun hA hB =>
  let f : G ↪ Gᵐᵒᵖ := ⟨op, op_injective⟩
  let ⟨y, yB, x, xA, hxy⟩ := h.uniqueMul_of_nonempty (hB.map (f := f)) (hA.map (f := f))
  ⟨unop x, (mem_map' _).mp xA, unop y, (mem_map' _).mp yB, hxy.of_mulOpposite⟩⟩

open MulOpposite in
@[to_additive]
instance {A : Type*} [inst : Mul A] [inst_1 : IsLeftCancelMul A] : IsRightCancelMul Aᵐᵒᵖ :=
⟨fun a b c bc => by
  apply_fun unop at bc ⊢ using unop_injective (α := A)
  exact mul_left_cancel bc⟩
```
(the first two are probably a good idea anyway, the last I asked about to see if there are any issues and would probably be better for a separate PR)
then we can prove
```
open MulOpposite in
@[to_additive Covariant.to_uniqueSums_left]
instance (priority := 100) Covariant.to_uniqueProds_left {A} [Mul A] [IsLeftCancelMul A]
    [LinearOrder A] [CovariantClass A A (Function.swap (· * ·)) (· < ·)] :
    UniqueProds A :=
let _ := LinearOrder.lift' (unop : Aᵐᵒᵖ → A) unop_injective
let _ : CovariantClass Aᵐᵒᵖ Aᵐᵒᵖ (· * ·) (· < ·) :=
{ elim := fun a _ _ bc =>
            have : StrictMono (unop (α := A)) := fun _ _ => id
            mul_lt_mul_right' (α := A) bc (unop a) }
of_mulOpposite _ Covariant.to_uniqueProds_right
```

**Comment by alreadydone** [comment]
Good idea! Please do. I think my `Pi` proof won't end up benefiting from `mop` defeq, but removing that duplication is definitely good.

File: Mathlib/Algebra/Group/UniqueProds.lean [hunk 9]
```diff
@@ -196,36 +216,153 @@ attribute [to_additive UniqueSums] UniqueProds
...
-        ⟨_, A.min'_mem ‹_›, _, B.min'_mem ‹_›, fun a b ha hb ab ↦
-        eq_and_eq_of_le_of_le_of_mul_le (Finset.min'_le _ _ ‹_›) (Finset.min'_le _ _ ‹_›) ab.le⟩
-#align covariants.to_unique_prods Covariants.to_uniqueProds
-#align covariants.to_unique_sums Covariants.to_uniqueSums
+/-- This instance asserts that if `A` has a right-cancellative multiplication, a linear order,
+  and multiplication is strictly monotone w.r.t. the second argument, then `A` has `UniqueProds`. -/
+@[to_additive _root_.Covariant.to_uniqueSums_right
+  "This instance asserts that if `A` has a right-cancellative addition, a linear order,
+  and addition is strictly monotone w.r.t. the second argument, then `A` has `UniqueSums`." ]
+instance (priority := 100) _root_.Covariant.to_uniqueProds_right {A} [Mul A] [IsRightCancelMul A]
```
Comment (alreadydone) [inline Mathlib/Algebra/Group/UniqueProds.lean:250]: Maybe this could be `UniqueProds.of_Covariant_right` because we're in `UniqueProds` namespace.

File: Mathlib/Algebra/Group/UniqueProds.lean [hunk 10]
```diff
@@ -196,36 +216,153 @@ attribute [to_additive UniqueSums] UniqueProds
...
+    obtain ⟨aH, hA, bH, hB, hH⟩ := uniqueMul_of_nonempty (hA.image Prod.snd) (hB.image Prod.snd)
+    simp_rw [mem_image, mem_filter] at hA hB
+    refine ⟨(aG, aH), ?_, (bG, bH), ?_, fun a b ha hb he => ?_⟩
+    · obtain ⟨a, ⟨ha, rfl⟩, rfl⟩ := hA; exact ha
+    · obtain ⟨b, ⟨hb, rfl⟩, rfl⟩ := hB; exact hb
+    rw [Prod.ext_iff] at he
+    specialize hG (mem_image.mpr ⟨a, ha, rfl⟩) (mem_image.mpr ⟨b, hb, rfl⟩) he.1
+    specialize hH _ _ he.2
+    all_goals try simp_rw [mem_image, mem_filter]
+    exacts [⟨a, ⟨ha, hG.1⟩, rfl⟩, ⟨b, ⟨hb, hG.2⟩, rfl⟩, ⟨Prod.ext hG.1 hH.1, Prod.ext hG.2 hH.2⟩]
```
Comment (alreadydone) [inline Mathlib/Algebra/Group/UniqueProds.lean:317]: may or may not be easier to prove via isomorphism with a `Pi` type indexed by `bool`.

File: Mathlib/Algebra/Group/UniqueProds.lean [hunk 11]
```diff
@@ -196,36 +216,153 @@ attribute [to_additive UniqueSums] UniqueProds
...
+{ elim := fun _ _ _ bc =>
+          have : StrictMono (unop (α := A)) := fun _ _ => id
+          mul_lt_mul_right' (α := A) bc (unop _) }
+of_mulOpposite _ Covariant.to_uniqueProds_right
+
+variable {G H : Type*} [Mul G] [Mul H]
+
+@[to_additive (attr := nontriviality, simp)]
+theorem of_subsingleton [Subsingleton G] : UniqueProds G :=
+  ⟨fun ⟨a, ha⟩ ⟨b, hb⟩ => ⟨a, ha, b, hb, UniqueMul.of_subsingleton⟩⟩
```
Comment (alreadydone) [inline Mathlib/Algebra/Group/UniqueProds.lean:284]: What was the auto-generated name before #6751?

Comment (adomani) [reply Mathlib/Algebra/Group/UniqueProds.lean:275]: `to_additive` worked on `UniqueProds`, I think because that was the namespace, so it actually gave it the correct name.  Btw, the `to_additive` PR is not merged into this one, so you can still check the naming in this one, if you want.

File: Mathlib/Algebra/MonoidAlgebra/NoZeroDivisors.lean [hunk 12]
```diff
@@ -4,6 +4,10 @@ Released under Apache 2.0 license as described in the file LICENSE.
 Authors: Damiano Testa
 -/
 import Mathlib.Algebra.MonoidAlgebra.Support
+import Mathlib.Algebra.Group.UniqueProds
+import Mathlib.Data.Finsupp.Lex
+import Mathlib.Order.Extension.Linear
```
[the remark this answers is not in the document]
Comment (adomani) [reply Mathlib/Algebra/MonoidAlgebra/NoZeroDivisors.lean:9]: Good catch!

File: Mathlib/Algebra/Group/UniqueProds.lean (hunk 9 above)
Comment (adomani) [reply Mathlib/Algebra/Group/UniqueProds.lean:241]: Ok, I am not terribly fussed by the name of the instance, since it should mostly be invisible, possibly will be called out explicitly a couple of times.  Iĺl make the change.

File: Mathlib/Algebra/Group/UniqueProds.lean (hunk 10 above)
Comment (adomani) [reply Mathlib/Algebra/Group/UniqueProds.lean:308]: Hmm, I did not try much, but... is the `Pi` instance universe polymorphic?  Are the `G i` all in the same universe?  Maybe it is easier to keep the proof for a product separate.

Comment (alreadydone) [reply Mathlib/Algebra/Group/UniqueProds.lean:308]: Oh indeed universe is an issue, so let's leave it as is.

Comment (adomani) [reply Mathlib/Algebra/Group/UniqueProds.lean:308]: Here is my attempt: I am missing the "multiplicativity, and I do not know how to put that instance effectively...

```lean
@[to_additive] instance [UniqueProds G] [UniqueProds H] : UniqueProds (G × H) := by
  have : G × H ≃ ∀ x : Bool, if x then ULift.{max u_1 u_2} G else ULift.{max u_1 u_2} H := by
    refine ⟨?_, ?_, ?_, ?_⟩
    · intro (g, h) x
      cases x
      simpa only [ite_false] using { down := h }
      simpa only [ite_true] using { down := g }
    · intros x
      let xG := x true
      let xH := x false
      simp at xG xH
      exact ⟨xG.down, xH.down⟩
    · intro (g, h)
      simp
    . intro h
      ext x
      cases x
      · simp; rfl
      · simp; rfl
  apply UniqueProds.mulHom_image_iff.mp -- missing the ≃*!
```

Comment (alreadydone) [reply Mathlib/Algebra/Group/UniqueProds.lean:308]: We usually define a function out of `Bool` using `Bool.rec`; hopefully it simplifies the proof!

Comment (adomani) [reply Mathlib/Algebra/Group/UniqueProds.lean:308]: I'll give it a go, but tomorrow.  In any case, I'm not sure that aiming for shortest proof is necessarily an advantage.

I'll also try with the injection only.

Anyway, you are right that the equivalence between `Prod` and `Bool → ...` should be in mathlib.  I'll try to look for it (and prove it as well, to get some practice with universe levels).  If I cannot find it, I'll PR it.

Comment (alreadydone) [reply Mathlib/Algebra/Group/UniqueProds.lean:308]: There is [Equiv.boolArrowEquivProd](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Logic/Equiv/Basic.html#Equiv.boolArrowEquivProd) but not the dependent version in the same file, and that should be pretty good evidence that it doesn't exist yet ...

Comment (adomani) [reply Mathlib/Algebra/Group/UniqueProds.lean:308]: Ok, I will probably PR a version of the equivalence of
* `Prod` with factors potentially in different universes and 
* dependent function from `Bool`.

(This should be what is already in this thread, I think.)

However, likely, I will not try to force through also a typeclass assumption on the types and will keep the two proofs for `Pi` Ans `Prod` of `UniqueProds` that we currently have.

**Comment by alreadydone** [comment]
Another interesting fact is that UniqueProds implies IsLeft/RightCancelMul (just take A={a}, B={b,c}); I guess it's not mentioned in the literature because people only care about groups. If it's made an instance it would loop with `of_Covariant_left/right` though.

**Comment by adomani** [comment]
Nice observation!

I find non-cancellativity quite rare in the kind of informal maths that I do.  Also, when it fails, it is usually not on a structure with a *unique* operation: non-cancellative add monoids are really rare and arguments about rings with zero divisors are often reduced to domains with some general argument.

Still I find these questions that arise from generalisation in formalization interesting!

File: Mathlib/Algebra/Group/UniqueProds.lean (hunk 10 above)
Comment (alreadydone) [reply Mathlib/Algebra/Group/UniqueProds.lean:308]: Oh I somehow missed this reply. 

I just found [prodEquivPiFinTwo](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Logic/Equiv/Fin.html#prodEquivPiFinTwo) and [piFinTwoEquiv](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Logic/Equiv/Fin.html#piFinTwoEquiv) which use `Fin 2` rather than `Bool`. A `Bool` version would feel a bit redundant. I also think the fully universe polymorphic version is not "atomic" in the sense it can be obtained from the version with both types in the same universe by composing with [Equiv.prodCongr](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Logic/Equiv/Basic.html#Equiv.prodCongr) applied to [Equiv.ulift](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Logic/Equiv/Defs.html#Equiv.ulift), so I'd be satisfied with the less polymorphic version.

Comment (adomani) [reply Mathlib/Algebra/Group/UniqueProds.lean:308]: I'm going to leave this as is: I think that the current proof is nicer than trying to force a polymorphic multiplicative equivalence with typeclasses between `Prod` and `Pi`.

Comment (alreadydone) [reply Mathlib/Algebra/Group/UniqueProds.lean:308]: I can prove it in 11 lines https://github.com/leanprover-community/mathlib4/compare/adomani/UniqueProds_for_LW...jyxu/UniqueProds_prod_from_pi?expand=1#diff-ebdf20b185bac5adc5a22ffdf53e7dfa74bb23fb34dfa47a761bb9dfa66c9fc1R352-R362 but to_additive strangely has trouble working.

Comment (adomani) [reply Mathlib/Algebra/Group/UniqueProds.lean:308]: I'll take a look!

Comment (adomani) [reply Mathlib/Algebra/Group/UniqueProds.lean:308]: The issue seems to be caused by the `inferInstance`s.

I solved the first 4 by replacing them with explicit `ULift.mul`.  I am working on figuring out the last two `inferInstance`s in `mulHom_image_of_injective`.

Comment (adomani) [reply Mathlib/Algebra/Group/UniqueProds.lean:308]: There is also a combined issue that the `cases b` embeds something in the proof term that `to_additive` misinterprets.

Comment (adomani) [reply Mathlib/Algebra/Group/UniqueProds.lean:308]: I have tried a little to find a way to prove the instance without messing with `to_additive`, but I was not able to.  This version causes problems *only* due to the `cases b` at the end:
```lean
@[to_additive]
instance [uG : UniqueProds G] [uH : UniqueProds H] : UniqueProds (G × H) := by
  let I : Bool → Type max u v := Bool.rec (ULift.{v} G) (ULift.{u} H)
  let ins : Mul (∀ b, I b) := @Pi.instMul Bool I (Bool.rec myMul myMul)
  let f : MulHom (G × H) (∀ b, I b) := ⟨fun x => Bool.rec ⟨x.1⟩ ⟨x.2⟩, fun x y => ?_⟩
  swap; ext b; cases b <;> rfl
  refine mulHom_image_of_injective f (fun x y he => Prod.ext ?_ ?_) ?_
  · exact ULift.up_injective (congr_fun he false)
  · exact ULift.up_injective (congr_fun he true)
  refine @instUniqueProdsForAllInstMul _ I (Bool.rec myMul myMul) ?_
  intro b
  cases b <;> -- put a `sorry` before here and `to_additive` is happy
  exact mulHom_image_of_injective ⟨ULift.down, fun _ _ => rfl⟩ ULift.down_injective inferInstance
```
It is possible that the last `inferInstace` could cause further problems, but those might be soluble by explicitly passing the instance name.

Note that the "manually" `to_additivized` version works:
```lean
example [Add G] [Add H] [UniqueSums G] [UniqueSums H] : UniqueSums (G × H) := by
  let I : Bool → Type max u v := Bool.rec (ULift.{v} G) (ULift.{u} H)
  let ins : Add (∀ b, I b) := @Pi.instAdd Bool I (Bool.rec ULift.add ULift.add)
  let f : AddHom (G × H) (∀ b, I b) := ⟨fun x => Bool.rec ⟨x.1⟩ ⟨x.2⟩, fun x y => ?_⟩
  swap; ext b; cases b <;> rfl
  refine UniqueSums.addHom_image_of_injective f (fun x y he => Prod.ext ?_ ?_) ?_
  · exact ULift.up_injective (congr_fun he false)
  · exact ULift.up_injective (congr_fun he true)
  refine @UniqueSums.instUniqueProdsForAllInstAdd _ I (Bool.rec _ _) ?_
  intro b; cases b <;>
  exact UniqueSums.addHom_image_of_injective ⟨ULift.down, fun _ _ => rfl⟩ ULift.down_injective inferInstance
```

Comment (alreadydone) [reply Mathlib/Algebra/Group/UniqueProds.lean:308]: Thanks for the investigation! [This](https://github.com/leanprover-community/mathlib4/compare/adomani/UniqueProds_for_LW...jyxu/UniqueProds_prod_from_pi?expand=1#diff-ebdf20b185bac5adc5a22ffdf53e7dfa74bb23fb34dfa47a761bb9dfa66c9fc1R352-R364) is a version that makes `to_additive` work. The key seems to be singling out all `MulHom`s rather than inlining them (I tried using `MulHom.mk` rather than `⟨_, _⟩` and it doesn't work). Could `to_additive` be patched to support inlined `MulHom`s?

Comment (adomani) [reply Mathlib/Algebra/Group/UniqueProds.lean:308]: Great!  Do you want to push it to the PR?  Should I do it?

As for the `to_additive` question, I do not know what the answer is.  I have tried to understand how `to_additive` works, I have some vague idea, but there is always something about it that seems magic...

Comment (alreadydone) [reply Mathlib/Algebra/Group/UniqueProds.lean:308]: Feel free to push if you like the new proof! (Note the new import and explicit universes on G and H.)

**Comment by alreadydone** [comment]
It turns out the cancellation observation has been made in the literature:

image

from https://www.sciencedirect.com/science/article/pii/S0021869316000120
also mentioning an example of u.p. (therefore cancellative) semigroup that is not t.u.p. (two unique products) in the reference
> [2] J. Okniński, Semigroup Algebras, Monogr. Textb. Pure Appl. Math., vol. 138, Marcel Dekker, Inc., New York, 1991.

I've also looked into embeddability of cancellative semigroups into groups: this is not always possible and there are necessary and sufficient conditions by Mal'cev and Lambek independently. However, if the semigroup has u.p. it's not clear that the smallest/universal group it embeds into also has u.p. So there isn't a direct way to deduce t.u.p. from u.p. for ℕ and Finsupp α ℕ. However, under the left-orderable + right-cancellative conditions the min and max will be two different unique products, which is probably the best way to establish t.u.p. for ℕ. I have to think about whether my inductive argument extends to prove t.u.p. for direct products of t.u.p. semigroups ...

File: Mathlib/Algebra/Group/UniqueProds.lean (hunk 10 above)
Comment (adomani) [reply Mathlib/Algebra/Group/UniqueProds.lean:308]: Upon further reflection, I think that I prefer the current proof: disconnected instances for `Prod` and `Pi`.  The reason that I like the proof connecting the two is because I find it interesting how you manage to get the universe levels to line up, while also juggling the limitations of `to_additive`.  From the point of view of the PR, though, this is not really a goal!

So, unless you think differently, I would leave the proofs as they are now.

File: Mathlib/Algebra/Group/UniqueProds.lean [hunk 13]
```diff
@@ -203,17 +215,138 @@ instance {M} [Mul M] [UniqueProds M] : UniqueSums (Additive M) where
 
 end Additive
 
+#noalign covariants.to_unique_prods
+#noalign covariants.to_unique_sums
+
+namespace UniqueProds
+
+variable {G H : Type*} [Mul G] [Mul H]
```
Comment (alreadydone) [inline Mathlib/Algebra/Group/UniqueProds.lean:223]: Moving up these variables facilitates replacing `A` by `G`, avoiding confusion with the two Finsets A and B.

File: Mathlib/Algebra/Group/UniqueProds.lean [hunk 14]
```diff
@@ -203,17 +215,138 @@ instance {M} [Mul M] [UniqueProds M] : UniqueSums (Additive M) where
...
+    · obtain ⟨a, ⟨ha, rfl⟩, rfl⟩ := hA; exact ha
+    · obtain ⟨b, ⟨hb, rfl⟩, rfl⟩ := hB; exact hb
+    rw [Prod.ext_iff] at he
+    specialize hG (mem_image.mpr ⟨a, ha, rfl⟩) (mem_image.mpr ⟨b, hb, rfl⟩) he.1
+    specialize hH _ _ he.2
+    all_goals try simp_rw [mem_image, mem_filter]
+    exacts [⟨a, ⟨ha, hG.1⟩, rfl⟩, ⟨b, ⟨hb, hG.2⟩, rfl⟩, ⟨Prod.ext hG.1 hH.1, Prod.ext hG.2 hH.2⟩]
+
+@[to_additive] instance {ι} (G : ι → Type*) [∀ i, Mul (G i)] [∀ i, UniqueProds (G i)] :
+    UniqueProds (∀ i, G i) where
```
Comment (alreadydone) [inline Mathlib/Algebra/Group/UniqueProds.lean:304]: TODO: will extract a lemma that is common to this proof and the similar TwoUniqueProds proof.

**Review by alreadydone — COMMENTED** [review]
I removed the `subsingleton -> UniqueMul/Prods` instances to reduce the diff because they're not used.

**Comment by alreadydone** [comment]
@adomani I've proven analogues of results in this PR in the TwoUniqueProds branch, and extracted lemmas as appropriate. However, there are [one lemma about `Nat` and two about `Finset.card`](https://github.com/leanprover-community/mathlib4/compare/adomani/UniqueProds_for_LW...TwoUniqueProds?expand=1#diff-ebdf20b185bac5adc5a22ffdf53e7dfa74bb23fb34dfa47a761bb9dfa66c9fc1R250-R272) that should be moved. I've adopted the Bool proof for `G × H` because it saves effort for both UniqueProds and TwoUniqueProds with some common auxiliary private definitions.

Some changes would be worthwhile to make in this PR, but it may be difficult to single out those changes just for UniqueProds. Should I merge my branch into this PR? Let me know what you think.

**Comment by adomani** [comment]
Nice observation!

I find non-cancellativity quite rare in the kind of informal maths that I do.  Also, when it fails, it is usually not on a structure with a *unique* operation: non-cancellative add monoids are really rare and arguments about rings with zero divisors are often reduced to domains with some general argument.

Still I find these questions that arise from generalisation in formalization interesting!

**Comment by adomani** [comment]
@alreadydone I am happy if you want to merge your extension into this one: I only looked briefly at the new results, but they seem great!

I think that maybe we should also re-think a splitting of the PR for merging.  The initial input was providing a `NoZeroDivisors` instance for Lindemann-Weierstrass.  Ideally, we would be able to split out a shortcut to this result that can be merged relatively early on, while keeping all the goodies in the "main" PR.

Does this seem reasonable?

**Comment by alreadydone** [comment]
We certainly can merge this PR as is and I'll just do the TwoUniqueProds refactoring in another PR.

File: Mathlib/Algebra/Group/UniqueProds.lean (hunk 14 above)
Comment (alreadydone) [reply Mathlib/Algebra/Group/UniqueProds.lean:304]: Opened #6818 for lemmas that don't fit in this file.

**Comment by jcommelin** [comment]
bors d=alreadydone

**Comment by alreadydone** [comment]
Thanks!

bors r+
